US08119795B2
2.7 71.25 g of potassium carbonate are added to a solution of 75 g of methyl 2,4-dihydroxy-5-(N-methyl-N-propylsulfamoyl)benzoate in 800 ml of acetonitrile. 60 ml of benzyl bromide are subsequently added dropwise. The mixture is refluxed for 3 hours, cooled and subjected to conventional work-up. HPLC gives 113 g of methyl 2,4-dibenzyloxy-5-(N-methyl-N-propylsulfamoyl)benzoate.

reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 2,4-dihydroxy-5-(N-methyl-N-propylsulfamoyl)benzoate | 75 g | OC1=C(C(=O)OC)C=C(C(=C1)O)S(N(CCC)C)(=O)=O | C12H17NO6S
reactant | benzyl bromide | 60 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetonitrile | 800 ml | C(C)#N | C2H3N
product | methyl 2,4-dibenzyloxy-5-(N-methyl-N-propylsulfamoyl)benzoate | 113 g | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=C(C(=C1)OCC1=CC=CC=C1)S(N(CCC)C)(=O)=O | C26H29NO6S
